US04515782
p-Acetaminophenyl 1-thio-β-D-glucopyranoside
To a solution of 1.77 g of p-aminophenyl-1-thio-β-D-glucopyranoside in 10 ml of water was added 0.9 ml of acetic anhydride. The solution was shaken for 7 minutes, then taken to dryness and evaporated with toluene to a residue. This residue was crystallized from ethyl acetate giving 2.0 g of the desired product, mp. 160°-163° C.

reactant | p-aminophenyl-1-thio-β-D-glucopyranoside | 1.77 g | C1=CC(=CC=C1N)S[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C12H17NO5S
reactant | acetic anhydride | 0.9 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 10 ml | O | H2O
product | p-Acetaminophenyl 1-thio-β-D-glucopyranoside | S([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC=C(C=C1)NC(=O)C | C14H19NO6S
